US07012089B2
8-Chloro-2,3,4,5,8b,9,10,11,12,12a-decahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole
To a solution of 8-chloro-2,3,4,5,9,10,11,12-octahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole (2.2 g, 8.00 mmole) in acetic acid (200 mL) was added sodium cyanoborohydride (95 wt. %, 2.5 g, 40.0 mmole) and the reaction mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was diluted with methylene chloride (400 mL) and washed with aqueous sodium hydroxide (1N, 300 mL), saturated sodium chloride (300 mL), dried (sodium sulfate) and concentrated. Purification by flash column chromatography (silica gel, 1.5% to 5% methanol in methylene chloride) provided 1.67 g of the title compound. 0.116 g of the compound was further treated with one equivalent of fumaric acid in ethanol to form a fumarate salt, mp 199-200° C. MS (ES) m/z 277.1 ([M+H]+).

reactant | 8-chloro-2,3,4,5,9,10,11,12-octahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole | 8.00 mmole, 2.2 g | ClC1=C2C=3CCCCC3N3C2=C(C=C1)CCNCC3 | C16H19ClN2
reactant | sodium cyanoborohydride | 40.0 mmole, 2.5 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 8-Chloro-2,3,4,5,8b,9,10,11,12,12a-decahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole | 1.67 g | ClC1=C2C3CCCCC3N3C2=C(C=C1)CCNCC3 | C16H21ClN2
